US07435823B2
Step (b) 6-(6,7-Dimethoxy-quinolin-4-yloxy)-naphthalene-1-carboxylic acid(4-chloro-phenyl)-amide
A slurry of 6-(6,7-dimethoxy-quinolin-4-yloxy)-naphthalene-1-carboxylic acid hydrochloride (0.200 g, 0.532 mmol, step a), HATU (0.264 g, 0.692 mmol), and Et3N (0.296 mL, 2.12 mmol) in 1.33 mL of DMF under argon was stirred at RT. After 1 h, 4-hydroxyaniline (0.116 g, 1.064 mmol) was added. The solution was stirred at RT for 0.5 h then at 50° C. After 2 h, the reaction was diluted with EtOAc and washed with saturated aqueous NaHCO3, water, and brine. The organic layer was dried (Na2SO4), filtered and concentrated. The residue remaining after concentration was dissolved in acetone and purified by reverse-phase HPLC (pH 1 CH3CN/water solvent system). The fractions containing the desired product were concentrated,.dissolved in CH2Cl2, and washed with saturated aqueous NaHCO3 and brine. The organic layer was dried (Na2SO4), filtered and concentrated to afford the titled compound as a pale yellow solid. M+H-467.1. Calc'd for C28H22N2O5-466.49.

reactant | 6-(6,7-dimethoxy-quinolin-4-yloxy)-naphthalene-1-carboxylic acid hydrochloride | Cl.COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CC=C(C2=CC1)C(=O)O
reactant | HATU | 0.692 mmol, 0.264 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 2.12 mmol, 0.296 mL | CCN(CC)CC | C6H15N
reactant | 4-hydroxyaniline | 1.064 mmol, 0.116 g | OC1=CC=C(N)C=C1 | C6H7NO
solvent | DMF | 1.33 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(6,7-Dimethoxy-quinolin-4-yloxy)-naphthalene-1-carboxylic acid(4-chloro-phenyl)-amide | ClC1=CC=C(C=C1)NC(=O)C1=CC=CC2=CC(=CC=C12)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C28H21ClN2O4
